US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2,5-dimethylthiophene-3-carboxamide
In the same manner as in Example 55 and using 2,5-dimethylthiophene-3-carboxylic acid (71.0 mg, 0.454 mmol), tetrahydrofuran (5 mL), thionyl chloride (77.0 μL, 0.888 mmol), N,N-dimethylformamide (2 drops), N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (129 mg, 0.399 mmol) and N,N-dimethylacetamide (6 mL) as starting materials, the title compound (137 mg, 74%) was obtained as a white solid.

reactant | 2,5-dimethylthiophene-3-carboxylic acid | 0.454 mmol, 71.0 mg | CC=1SC(=CC1C(=O)O)C | C7H8O2S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 0.888 mmol, 77.0 μL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.399 mmol, 129 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2,5-dimethylthiophene-3-carboxamide | 137 mg, 74% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(SC(=C2)C)C)C)=N1 | C24H23N5O3S
